US09278951B2
Synthesis of 1,3-bis(5-carboxypentyl)-4,5-dichloro-1H-imidazol-3-ium bromide
4,5-dichloroimidazole (1.00 g, 7.36 mmol) was dissolved in acetonitrile. Potassium hydroxide (0.828 g, 14.72 mmol) was added to the solution and allowed to reflux for 30 min. 2 equivalents of 6-bromohexanoic acid (2.87 g, 14.72 mmol) was added to the solution and refluxed for 5 h. Solution was filtered to remove the KBr precipitate and neutralized with 6M HBr. Volatiles were removed in vacuo and the resulting product will be collected and analyzed.

reactant | 4,5-dichloroimidazole | 7.36 mmol, 1.00 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | Potassium hydroxide | 14.72 mmol, 0.828 g | [OH-].[K+]
reactant | 6-bromohexanoic acid | 14.72 mmol, 2.87 g, 2 equivalents | BrCCCCCC(=O)O | C6H11BrO2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1,3-bis(5-carboxypentyl)-4,5-dichloro-1H-imidazol-3-ium bromide | [Br-].C(=O)(O)CCCCCN1C=[N+](C(=C1Cl)Cl)CCCCCC(=O)O | InChI=1S/C15H22Cl2N2O4.BrH/c16-14-15(17)19(10-6-2-4-8-13(22)23)11-18(14)9-5-1-3-7-12(20)21;/h11H,1-10H2,(H-,20,21,22,23);1H
